Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Vicodin / Engerix-B (Hepatitis B)Vaccine / ibuprofen / Motrin / 
aspirin
 
Attending: ___
 
Chief Complaint:
recurrent syncope

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old right-handed woman with orthostasis and
recurrent syncope, severe reflux, constipation, asthma, anxiety,
depression who presents with syncope referred from her 
outpatient
neurologist Dr. ___.

Per patient, she has had about weekly to every 10 days episodes
of syncope for the last ___ years (longest went 8 weeks between
episodes). The vast majority (about 90%) of episodes are with
postural changes, going from lying to sitting or sitting to
standing. About ___ episodes have been going from lying to
sitting, remainder with standing. Has had about 10% of episodes
when already standing and walking; has had a few while 
exercising
(on the treadmill). No prodrome; happens suddenly without 
warning
(no palpitations, feeling hot, sweats, nausea, greying out, 
etc).
Often will fall and hit her head with episodes; has had facial
bruising a number of times and multiple concussions. She does 
not
have any associated shaking movements, no incontinence, and eyes
are closed during the episodes. Mother who has witnessed the
episodes did not note any particular flushing, pallor, etc.
Typically has LOC for several seconds when witnessed. Once was
found down by her mother, unknown how long she had been out, and
today had a somewhat more prolonged episode in the setting of 
two
back to back episodes with others sitting her up in between. She
is typically immediately back to baseline, though she has been
confused if someone sits her up immediately after. 

She has had significant prior workup (uploaded in OMR under
Outside Records), predominantly in RI, including MRA neck
(unremarkable) and both routine and prolonged EEGs (both
unremarkable; captured event in ___ with postural change showed
tachycardia - from ___ to 120s - and some alpha rhythm but no
seizures). She was previously on Keppra and topiramate at 
various
times, though now is off both. The cardiac portion of her prior
workup is nicely summarized in a recent Cardiology
(electrophysiology)clinic note ___: "Transtelephonic
monitoring (___) captured multiple episodes of syncope
and palpitations, all correlating sinus rhythm/sinus
tachycardia/occasional PACs. Tilt table testing on ___ going
from 0deg to 70deg showed HR rise from 64 to 111bpm and BP drop
from 117/73 to 97/53 - this resulted in a 1 minute-long syncope.
She was given a diagnosis of POTS.

She has been managed with multiple medications including 
atenolol
(decreasing doses ___ bradycardia, discontinued by cardiology in
___, fludrocortisone, midodrine and pyridostigmine with no
significant improvement. She has a high salt diet, significant
fluid intake, uses over the counter compression stockings, and
tries to take her time with postural transitions. She exercises
regularly (treadmill and recumbent bike). 

In terms of other autonomic symptoms, she has significant reflux
requiring botox and baclofen. She reports dry mouth, some
flushing. Denies significant issues with hyper- or anhidrosis.
Endorses constipation which she reports started after starting
iron supplementation. Has had issues with urinary incontinence
requiring bladder mesh. Denies dry eyes/sicca. Has had
intentional 60 lbs weight loss over the last year or so. Per Dr.
___, denies difficulty transitioning to dim or
bright lights, though on my history endorses some vague blurry
vision/decreased acuity over the last few months; denies early
satiety. Does get hives, multiple medication allergies, and has
marked reactions to medical tape/leads, but previously denied
frank dermographism. 

She has had migraines for many years and recent triggers include
syncopal episodes. She often has some headache if she hits her
head but then will thereafter develop a migraine (typical
migraines are with visual aura of blurry spots, bifrontal,
throbbing, with photo- and phonophobia, nausea, and occasional
vomiting). 

She saw Dr. ___ first in ___ for a second opinion. Dr.
___ that given bradycardia, POTS was unlikely. She
had a question of dysautonomia but felt evaluating this would be
difficult given patient's polypharmacy/extensive medication
regimen. Patient was noted to have decreased sensation to
pinprick in the lower extremities. Dr. ___ labs to
evaluate for possible cause for small fiber neuropathy (B12, 
A1c,
SPEP, HIV, TTG, MMA, ACE, Heavy metal screen, ESR, Sjogren's 
Ab);
workup thus far has been unrevealing. Please see Dr.
___ from ___ ___s OMR for details of 
this
workup.  

Today was in clinic waiting room waiting to be seen. Got up to 
go
to the bathroom when she had syncope. Was on the ground, quickly
regained consciousness. Multiple staff around who sat her up,
patient again lost consciousness, was out for possibly more than
a minute (? a few minutes) and thereafter a bit out of it for
about 10 or 20 minutes. Per mother who was there, was unable to
see patient to see if pale or any other details given so many
staff around. 

Sending chem, getting CT/CTA. Given Zofran, Tylenol, NS,
Albuterol in ED. 

On neuro ROS, the pt endorses headache today (right sided where
possibly hit head, no migraine today). Endorses decreased vision
over several months. Denies diplopia, dysarthria, dysphagia,
lightheadedness or presyncope preceding syncopal events; denies
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- Syncope
- GERD - severe requiring botox and baclofen 
- Alcoholism (now in remission)
- Depression
- Anxiety
- Migraines
- ?OSA (not on CPAP)
- Asthma
- Urinary incontinence s/p bladder mesh
- nephrolithiasis
- Small bowel bleeds x2
- C section x2
- Tubal ligation 
- Right shoulder surgery 

 
Social History:
___
Family History:
 Father with CABG. No other premature MI, arrhythmia.
No family history of recurrent syncope. No family history of
autoimmune disease (asked about MS, MG, vitiligo, DM, thyroid
disease, SLE, RA). 

 
Physical Exam:
Admission exam:
Vitals: 97.4  57  121/66  16  96% RA
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and ___. EOMI with few beats
of end gaze horizontal nystagmus which extinguishes. VFF to
confrontation. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. Vibration decreased to 10
seconds in right great toe, 11 seconds in left great toe
(extinguishes much before extinguishes for examiner). Vibration
is 19 seconds in right pointer finger and 18 seconds in left
pointer finger (about equal to or ___ seconds before examiner).
No extinction to DSS.

-DTRs: ___ and crossed adductors bilaterally,
otherwise no spreading. No ankle clonus. 
  Bi  ___ Pat Ach
L  2    2    2   2
R  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor noted. No dysmetria on FNF
bilaterally.

-Gait: Deferred given multiple syncopal events today 

Discharge exam:

 
Pertinent Results:
___ 10:05PM   ALT(SGPT)-11 AST(SGOT)-16 LD(LDH)-159 ALK 
PHOS-51 TOT BILI-0.2
___ 10:05PM   ALBUMIN-4.0
___ 10:05PM   ___ PTT-30.2 ___
___ 08:16PM   ___
___ 12:55PM   GLUCOSE-93 UREA N-22* CREAT-0.7 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-25 ANION GAP-15
___ 12:55PM   estGFR-Using this
___ 12:55PM   ALT(SGPT)-11 AST(SGOT)-16 ALK PHOS-48 TOT 
BILI-0.3
___ 12:55PM   ALBUMIN-4.2
___ 12:55PM   WBC-8.2 RBC-4.19 HGB-13.9 HCT-41.6 MCV-99* 
MCH-33.2* MCHC-33.4 RDW-12.7 RDWSD-46.5*
___ 12:55PM   WBC-8.2 RBC-4.19 HGB-13.9 HCT-41.6 MCV-99* 
MCH-33.2* MCHC-33.4 RDW-12.7 RDWSD-46.5*
___ 12:55PM   NEUTS-65.8 ___ MONOS-5.7 EOS-3.7 
BASOS-0.6 IM ___ AbsNeut-5.40 AbsLymp-1.97 AbsMono-0.47 
AbsEos-0.30 AbsBaso-0.05

Xray glenohumerol shoulder
IMPRESSION:  
  
No acute fracture or dislocation. 
  
CT head and CTA head 
IMPRESSION: 
  
  
1. Unremarkable head CT and CTA. 

EEG ___
IMPRESSION: This is a normal continuous ICU EEG monitoring 
study. The 
prominent beta activity is likely a medication effect. No focal 
abnormalities 
or epileptiform discharges were present. There were no 
electrographic 
seizures. 
  
TTE ___
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. There is no left 
ventricular outflow obstruction at rest or with Valsalva. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis. Trace aortic 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

 IMPRESSION: No specific evidence of a structural cardiac 
abnormality identified on available images to explain patient's 
syncope.  
  

 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of recurrent syncopal 
episodes complicated by head strikes without clear etiology 
despite extensive workup in the past, thus far overall 
unremarkable, with the exception of a positive tilt table test
about ___ years ago. She presented to ___ after a prolonged 
syncopal episode in clinic. In the ___ ED she underwent CT/CTA 
head which was unremarkable. 
While on the general neurology service she was hooked on cvEEG, 
which did not show any epileptiform discharges or seizures. In 
addition, she underwent an Echocardiogram which was WNL and 
multiple ECGs which showed intermittent sinus tachycardia, but 
have otherwise been unremarkable making cardiogenic etiology of 
syncope such as structural abnormalities, ACS, or arrhythmias 
unlikely. She had no further episodes of orthostatic hypotension 
during admission. Most likely etiology of her symptoms is 
thought to be PNS cause such as small fiber neuropathy 
considering absence of features consistent with CNS source of 
syncope, including lack of sensory deficits. In addition, she 
had no signs concerning for ___ plus disorders on exam. 
Her home Amitryptiline was discontinued and Midodrine was 
adjusted so her last dose is in the evening. 
She will get the rest of her work up, including an EMG/NCS and 
possible skin biopsy as an outpatient, since she asked to be 
discharged to attend her son's graduation. She was instructed to 
not drive given syncopal episodes.
She was discharged in stable condition with outpatient follow 
up.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH BID:PRN asthma 
2. Amitriptyline 10 mg PO BID insomnia 
3. Baclofen 10 mg PO TID GERD 
4. ClonazePAM 1 mg PO BID Anxiety 
5. Vitamin D ___ UNIT PO 1X/WEEK (SA) 
6. Fludrocortisone Acetate 0.1 mg PO BID 
7. Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation qhs 
8. Midodrine 10 mg PO QPM 
9. Omeprazole 40 mg PO BID 
10. Pyridostigmine Bromide SR 60 mg PO TID 
11. Sertraline 200 mg PO DAILY 
12. Ferrous Sulfate 325 mg PO TID 
13. Fish Oil (Omega 3) 1000 mg PO BID 
14. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Midodrine 10 mg PO TID  
2.  Albuterol Inhaler 2 PUFF IH BID:PRN asthma  
3.  Baclofen 10 mg PO TID GERD  
4.  Breo Ellipta (fluticasone-vilanterol) 100-25 mcg/dose 
inhalation qhs  
5.  ClonazePAM 1 mg PO BID Anxiety  
6.  Ferrous Sulfate 325 mg PO TID  
7.  Fish Oil (Omega 3) 1000 mg PO BID  
8.  Fludrocortisone Acetate 0.1 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Omeprazole 40 mg PO BID  
11.  Pyridostigmine Bromide SR 60 mg PO TID  
12.  Sertraline 200 mg PO DAILY  
13.  Vitamin D ___ UNIT PO 1X/WEEK (SA)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
you were admitted to ___ for evaluation for syncopal episodes. 
You underwent an EEG which was negative for seizure. You were no 
longer orthostatic during your admission at ___. You will have 
an outpatient EMG scheduled for further evaluation. At this time 
etiology of your syncopal episode and orthostatic vitals prior 
to admission is unclear. 

We stopped amytriptiline. 
We also changed the dosing of your midodrine. Please do not take 
it after 6 pm. 

Please follow up with neurology as mentioned below. 

It was a pleasure taking care of you

Best,
 Your ___ team
 
Followup Instructions:
___